US05760035
n-Butyllithium (9.13 ml, 2.5M solution in hexanes) was added to a suspension of (2-dimethylaminoethyl)triphenylphosphonium bromide (9.46 g) in dry THF (60 ml) under nitrogen at 0° C. over 5 minutes. The mixture was stirred at 0° C. for 30 minutes and then 1-(2-phenoxyethyl)-4-piperidone (5.0 g) in THF (15 ml) was added dropwise over 5 minutes. The mixture was warmed to ambient temperature and then heated at 60° C. for 5 hours. The mixture was left at ambient temperature for 18 hours and then quenched with water and diluted with ethyl acetate. 2M Hydrochloric acid was added and the mixture was separated. The organic layer was extracted with 2M hydrochloric acid and the combined acidic layers were basified and extracted with dichloromethane to give an oil. The oil was purified by flash column chromatography on silica using dichloromethane and then dichloromethane/methanol (1:1) as the mobile phase. The oil obtained after chromatography was dissolved in ether and treated with ethereal hydrogen chloride. The ether was decanted off and the residual semi-solid was triturated with acetone/ether (1:1) and filtered to give a solid which was recrystallised from IMS to give 4-(2-dimethylaminoethylidene)-1-(2-phenoxyethyl)piperidine dihydrochloride, m.p. 234°-235° C.

reactant | n-Butyllithium | 2.5M, 9.13 ml | C(CCC)[Li]
reactant | (2-dimethylaminoethyl)triphenylphosphonium bromide | 9.46 g | [Br-].CN(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 1-(2-phenoxyethyl)-4-piperidone | 5.0 g | O(C1=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO2
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-(2-dimethylaminoethylidene)-1-(2-phenoxyethyl)piperidine dihydrochloride | Cl.Cl.CN(CC=C1CCN(CC1)CCOC1=CC=CC=C1)C | InChI=1S/C17H26N2O.2ClH/c1-18(2)11-8-16-9-12-19(13-10-16)14-15-20-17-6-4-3-5-7-17;;/h3-8H,9-15H2,1-2H3;2*1H
